US06875765B2
To a solution of 2-hydroxy-4-nitro-aniline (9.24 g, 60 mmol), 1-naphthyleneethanol (8.61 g, 50 mmol) and triphenylphosphine (19.7 g, 75 mmol) in dry THF (200 mL) was added diethylazodicarboxylate at 0° C. under an atmosphere of dry nitrogen. The reaction mixture was allowed to warm to room temperature and was stirred at room temperature overnight. The solvent was evaporated and the residue was taken up in chloroform (250 mL) and filtered. The chloroform solution was applied to a pad of silica (900 g) and the product eluted with an additional 2000 mL chloroform. The combined eluant was evaporated and the residue was triturated with ether (75 mL). The resulting solid was collected by filtration, washed with ether and dried under vacuum to give pure 2-(2-naphthalen-1-yl-ethoxy)-4-nitro-aniline (8.75 g). Mp=151-153° C.

reactant | 2-hydroxy-4-nitro-aniline | 60 mmol, 9.24 g | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
reactant | triphenylphosphine | 75 mmol, 19.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(2-naphthalen-1-yl-ethoxy)-4-nitro-aniline | 8.75 g | C1(=CC=CC2=CC=CC=C12)CCOC1=C(N)C=CC(=C1)[N+](=O)[O-] | C18H16N2O3
